US07491732B2
The resulting 3-aminosulfonyl-4-fluoro-5-methylnitrobenzene (0.940 g, 4 mmol) was stirred with 25% methanolic NaOMe (1.00 mL) at 60° C. for overnight. The resulting solution was then filtered through a pad of Celite, washed with methanol and the methanolic solution was concentrated to give 3-aminosulfonyl-4-methoxy-5-methylnitrobenzene. LCMS: purity: 100%, MS (m/e): 247 (MH+).

reactant | 3-aminosulfonyl-4-fluoro-5-methylnitrobenzene | 4 mmol, 0.940 g | NS(=O)(=O)C=1C=C(C=C(C1F)C)[N+](=O)[O-] | C7H7FN2O4S
reactant | NaOMe | 1.00 mL | C[O-].[Na+]
product | 3-aminosulfonyl-4-methoxy-5-methylnitrobenzene | NS(=O)(=O)C=1C=C(C=C(C1OC)C)[N+](=O)[O-] | C8H10N2O5S
